US04281117
p-Nitrobenzyl 7β-[(dimethylaminomethylene)amino]-3-chloro-3-cephem-4-carboxylate hydrochloride
To a solution of 12.8 g. (31.5 mmole) of p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride in 115 ml. of dry DMF were added with stirring 10.4 g (6.5 ml., 72 mmole) of phosphorus trichloride. The reaction mixture was stirred at room temperature for about 2 days and was then dispersed in a mixture of 5% aqueous sodium bicarbonate and ethyl acetate. The organic layer was separated and treated with 1 N hydrochloric acid. The title compound precipitated from solution and was filtered and dried under vacuum. There were obtained 11.3 g. (67% yield) of the salt.

reactant | p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride | 31.5 mmole | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | phosphorus trichloride | 72 mmole, 6.5 ml, 10.4 g | P(Cl)(Cl)Cl | Cl3P
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-Nitrobenzyl 7β-[(dimethylaminomethylene)amino]-3-chloro-3-cephem-4-carboxylate hydrochloride | 67% yield | Cl.CN(C)C=N[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | InChI=1S/C17H17ClN4O5S.ClH/c1-20(2)9-19-13-15(23)21-14(12(18)8-28-16(13)21)17(24)27-7-10-3-5-11(6-4-10)22(25)26;/h3-6,9,13,16H,7-8H2,1-2H3;1H/t13-,16-;/m1./s1
